US07488739B2
Platinum oxide and conc.HCl were added to a solution of diethyl (1-cyano-2-phenylethyl)phosphonate in EtOH, for overnight stirring under hydrogen atmosphere, to obtain diethyl [2-amino-1-(cyclohexylmethyl)ethyl]phosphonate.

reactant | HCl | Cl | ClH
reactant | diethyl (1-cyano-2-phenylethyl)phosphonate | C(#N)C(CC1=CC=CC=C1)P(OCC)(OCC)=O | C13H18NO3P
solvent | EtOH | CCO | C2H6O
catalyst | Platinum oxide | [Pt]=O
product | diethyl [2-amino-1-(cyclohexylmethyl)ethyl]phosphonate | NCC(CC1CCCCC1)P(OCC)(OCC)=O | C13H28NO3P
